US07691802B2
a) 2-Methyl-6-(3-methyl-but-2-enyl)-cyclohex-2-enone
To a solution of LDA (prepared from BuLi, 1.6 M in hexane, 75 ml, 0.12 mol and diisopropylamine, 12.2 g, 0.12 mol) in THF (50 ml) was added 2-methyl-cyclohex-2-enone (11.0 g, 0.1 mol) at −78° C. The mixture was stirred for 1 h at −78° C. and prenyl bromide 17.88 g, 0.12 mol) was added. The mixture was stirred over night, while the temperature was allowed to rise to room temperature. MTBE (50 ml) and sat. NH4Cl were added, the organic phase was separated and washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was distilled in a Kugelrohr oven to yield 9.8 g (55%) of a slightly yellow oil.

reactant | LDA | 0.12 mol, 1.6 M, 75 ml, 12.2 g | [Li+].CC(C)[N-]C(C)C
reactant | 2-methyl-cyclohex-2-enone | 0.1 mol, 11.0 g | CC=1C(CCCC1)=O | C7H10O
reactant | prenyl bromide | 0.12 mol, 17.88 g | C(C=C(C)C)Br | C5H9Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | MTBE | 50 ml | CC(C)(C)OC | C5H12O
product | 2-Methyl-6-(3-methyl-but-2-enyl)-cyclohex-2-enone | CC=1C(C(CCC1)CC=C(C)C)=O | C12H18O
